US07371877B2
Morpholine (8.9 g) and succinic anhydride (10.1 g) were dissolved in ethyl acetate (50 mL) and refluxed for 2 hours, and then the solvent was evaporated to obtain a crude product of monomorpholinosuccinic acid. By using the resulting crude product and the 1,3-diacylglycerol compound, Compound 1A-4-1 was obtained in the same manner as that used for Compound 1A-1-3.

reactant | Morpholine | 8.9 g | N1CCOCC1 | C4H9NO
reactant | succinic anhydride | 10.1 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | monomorpholinosuccinic acid | O1CCN(CC1)C(C(=O)O)CC(=O)O | C8H13NO5
